US08445509B2
Production of 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]propanamide
To a solution of N-{5-[(4-methoxybenzyl)oxy]pyridin-2-yl}-4-methylbenzenesulfonamide (3 g, 7.80 mmol) in N,N-dimethylformamide (30 mL) were added 2-bromopropanamide (2.82 g, 18.4 mmol) and N,N-diisopropylethylamine (4.04 mL, 23.4 mmol), and the mixture was stirred at room temperature for 2 days. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/1→ethyl acetate alone) to give the title compound (2.64 g, 74%) as a colorless oil.

reactant | N-{5-[(4-methoxybenzyl)oxy]pyridin-2-yl}-4-methylbenzenesulfonamide | 7.80 mmol, 3 g | COC1=CC=C(COC=2C=CC(=NC2)NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C20H20N2O4S
reactant | 2-bromopropanamide | 18.4 mmol, 2.82 g | BrC(C(=O)N)C | C3H6BrNO
reactant | N,N-diisopropylethylamine | 23.4 mmol, 4.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[5-[(4-methoxybenzyl)oxy]-2-{[(4-methylphenyl)sulfonyl]imino}pyridin-1(2H)-yl]propanamide | 2.64 g, 74% | COC1=CC=C(COC=2C=CC(N(C2)C(C(=O)N)C)=NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C23H25N3O5S
